US06919315B1
At −78° C., a 1.2 M solution of diisobutylaluminum hydride (31.7 ml, 38 mmol) in toluene was added dropwise to a solution of (2S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (4.02 g, 16.5 mmol) in diethyl ether (1.5 ml). The reaction mixture was stirred for 3 h at −78° C. Water (9.9 ml) was added dropwise. The reaction mixture was warmed to room temperature. The mixture was filtered through a plug of celite. The celite was washed with tert-butyl methyl ether (3×100 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo, to give 2.34 g of crude N-t-butyloxycarbonyl-(S)-prolinal, which was used for the next step without further purification.

reactant | diisobutylaluminum hydride | 38 mmol, 31.7 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (2S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 16.5 mmol, 4.02 g | CCOC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C12H21NO4
reactant | Water | 9.9 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 1.5 ml | C(C)OCC | C4H10O
product | N-t-butyloxycarbonyl-(S)-prolinal | 2.34 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
